US07208481B2
Acetic acid was added dropwise to 100 ml of a methanol solution containing 2-aminopyridine (3.0 g, 31.9 mmol), valeraldehyde (4.4 ml, 41.7 mmol) and a crystal of Neutral Red until the solution becomes red. After 15 min, a solution of 4.9 g sodium cyanoborohydride in 20 ml MeOH was added and the mixture was stirred at room temperature overnight. Another portion of sodium cyanoborohydride (0.5 g) was added and the mixture was stirred for a further 2 h. Water was added to the reaction mixture which was then extracted with dichloromethane. The organic phase was dried, concentrated and the residue was purified by column chromatography (silica gel, CH2Cl2/MeOH 95/5) to give 4.9 g (95%) of 2-(n-pentylamino)pyridine. A mixture of 2-(n-pentylamino)pyridine (3.39 g, 20.2 mmol), triethylorthoformate (4.0 ml, 24.0 mmol) and diethyl phosphite (13.0 ml, 101 mmol) was heated to 150° C. for 17 h in a flask equipped with a condenser. Heating was discontinued and the reaction mixture was concentrated at reduced pressure. The residue was submitted to several purifications by column chromatography (silica gel, CHCl3/AcOEt 9/1, CH2Cl2/MeOH 95/5 and CH2Cl2/AcOEt/MeOH 7/2/1) and the purified fractions gave 1.5 g (17%) of an oil.

reactant | 2-aminopyridine | 31.9 mmol, 3.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | valeraldehyde | 41.7 mmol, 4.4 ml | C(CCCC)=O | C5H10O
reactant | Neutral Red | CC1=CC2=NC3=C(C=C(C=C3)N(C)C)N=C2C=C1N.Cl
reactant | sodium cyanoborohydride | 4.9 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 0.5 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | Water | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 2-(n-pentylamino)pyridine | 4.9 g, 95% | C(CCCC)NC1=NC=CC=C1 | C10H16N2
